US07402698B2
A solution of tent-butyl {1-[(3,4-dichlorophenyl)(1-hydroxycyclohexyl)acetyl]piperidin-4-yl}carbamate (364 mg, 0.75 mmol) in dry tetrahydrofuran (1 mL), under nitrogen, was treated with a solution of borane (1.0 M in tetrahydrofuran, 2.62 mL, 2.62 mmol). The reaction was heated at 74° C. for 2 h, after which time the reaction was cooled and quenched by the addition of methanol (4 mL). The solvents were removed in vacuo, and the products were purified via Biotage Horizon (FLASH 25 M, silica, gradient from 10% EtOAc/hexane to 90% EtOAc/hexane) to yield 187 mg (53%) tert-butyl {1-[2-(3,4-dichlorophenyl)-2-(1-hydroxycyclohexyl)ethyl]piperidin-4-yl}carbamate as a white foam which eluted first and 88 mg (31%) 1-{1-(3,4-dichlorophenyl)-2-[4-(methylamino)piperidin-1-yl]ethyl}cyclohexanol as a colorless oil which eluted second. tert-butyl {1-[2-(3,4-dichlorophenyl)-2-(1-hydroxycyclohexyl)ethyl]piperidin-4-yl}carbamate: MS (ES) m/z 471.3 ([M+H]+); HRMS: calcd for C24H36Cl2N2O3, 470.2103; found (ESI), 471.2165. 1-{1-(3,4-dichlorophenyl)-2-[4-(methylamino)piperidin-1-yl]ethyl}cyclohexanol: MS m/z 385/387/389 ([M+H]+). 1-{1-(3,4-dichlorophenyl)-2-[4-(methylamino)piperidin-1-yl]ethyl}cyclohexanol was converted to the dihydrochloride salt with a methanolic solution of hydrochloric acid and diethyl ether to yield 45 mg (41%) 1-{1-(3,4-dichlorophenyl)-2-[4-(methylamino)piperidin-1-yl]ethyl}cyclohexanol dihydrochloride as a white solid. HRMS: calcd for C20H30Cl2N2O.2.00 HCl, 456.1269; found (ESI), 385.183.

reactant | butyl {1-[(3,4-dichlorophenyl)(1-hydroxycyclohexyl)acetyl]piperidin-4-yl}carbamate | 0.75 mmol, 364 mg | ClC=1C=C(C=CC1Cl)C(C(=O)N1CCC(CC1)NC(OCCCC)=O)C1(CCCCC1)O | C24H34Cl2N2O4
reactant | borane | 2.62 mmol, 1.0 M, 2.62 mL | B | BH3
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | tert-butyl {1-[2-(3,4-dichlorophenyl)-2-(1-hydroxycyclohexyl)ethyl]piperidin-4-yl}carbamate | 187 mg, 53% | ClC=1C=C(C=CC1Cl)C(CN1CCC(CC1)NC(OC(C)(C)C)=O)C1(CCCCC1)O | C24H36Cl2N2O3
